US05635510
6.3 Synthesis of 1-[2-[1-benzoyl-3-(3,4-dichlorophenyl)-pyrrolidin-3-yl]-ethyl]-4-phenylpiperidine-4-carboxylic acid methyl ester (003F171)
4-Phenyl-piperidine-4-carboxylic acid methyl ester hydrochloride (0.4143 g, 1.62 mmol) and 2-[1-benzoyl-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethylmethanesulfonate (0.7165 g, 1.62 mmol) were dissolved in THF/H2O (20 mL/4 mL) and treated with sodium bicarbonate (0.2592 g, 3.24 mmol) at reflux for 16 hours. The solution was diluted with ethyl acetate and the aqueous phase was extracted with dichloromethane. The combined organic phases were dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel with 1% methanol in dichloromethane to give 0.2850 g (31%) of the title compound.

reactant | 4-Phenyl-piperidine-4-carboxylic acid methyl ester hydrochloride | 1.62 mmol, 0.4143 g | Cl.COC(=O)C1(CCNCC1)C1=CC=CC=C1
reactant | 2-[1-benzoyl-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethylmethanesulfonate | 1.62 mmol, 0.7165 g | C(C1=CC=CC=C1)(=O)N1CC(CC1)(C1=CC(=C(C=C1)Cl)Cl)CCCS(=O)(=O)[O-]
reactant | sodium bicarbonate | 3.24 mmol, 0.2592 g | C([O-])(O)=O.[Na+]
solvent | THF H2O | 20 mL | C1CCOC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-[1-benzoyl-3-(3,4-dichlorophenyl)-pyrrolidin-3-yl]-ethyl]-4-phenylpiperidine-4-carboxylic acid methyl ester | 0.2850 g, 31% | COC(=O)C1(CCN(CC1)CCC1(CN(CC1)C(C1=CC=CC=C1)=O)C1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C32H34Cl2N2O3
